US06310056B1
d) Potassium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 117 mg of allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in a mixed solvent of 2.5 ml of dichloromethane and 2.5 ml of ethy acetate were added 8.1 mg of triphenylphosphine, 56.5 mg of potassium 2-ethylhexanoate, and 11.8 mg of tetrakis(triphenylphosphine)palladium (0), and the mixture was stirred under the atmosphere of argon at room temperature for 20 minutes. After confirming the exhaustion of the starting materials, the reaction mixture was diluted with 10 ml of ethyl acetate, extracted three or four times with water, and the aqueous layer was concentrated under reduced pressure. The concentrate was purified by column chromatography on COSMOSEAL 40C18-PREP to give the title compound in a yield of 55 mg.

reactant | allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 117 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N=CN3C2SC=C3)C(=O)OCC=C)C1=O | C18H19N3O4S
reactant | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
reactant | triphenylphosphine | 8.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium 2-ethylhexanoate | 56.5 mg | C(C)C(C(=O)[O-])CCCC.[K+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 11.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethy acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | Potassium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N=CN3C2SC=C3)C(=O)[O-])C1=O.[K+] | InChI=1S/C15H15N3O4S.K/c1-6-8(10-14-17(5-16-10)3-4-23-14)12(15(21)22)18-11(6)9(7(2)19)13(18)20;/h3-7,9,11,19H,1-2H3,(H,21,22);/q;+1/p-1/t6-,7+,9+,11+;/m0./s1
